US06348474B1
7-Carboxy-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline 1/2 sulfate
To 7-(acetylcarbamoyl)-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline hydrochloride (0.46 g) were added water (1.2 g) and concentrated sulfuric acid (1.0 g) and the mixture was heated at 70° C. for 90 min. After cooling, ice was added and the precipitated solid was collected by filtration. The precipitate was washed with water and 2-propanol and dried to give the objective compound (0.145 g).

reactant | 7-(acetylcarbamoyl)-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline hydrochloride | 0.46 g | Cl.C(C)(=O)NC(=O)C1=CC=C2CN=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.2 g | O | H2O
product | 7-Carboxy-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline | 0.145 g | C(=O)(O)C1=CC=C2CN=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C | C17H14Cl2N2O2
